Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / Morphine / Codeine
 
Attending: ___.
 
Chief Complaint:
Tramautic event was on his right second and fourth toe
 
Major Surgical or Invasive Procedure:
None

 
Past Medical History:
1. CAD (s/p CABG, ___
2. CHF (EF 17% on pMIBI from ___
3. DM (diet controlled, HgA1c 6.2 on no agents)
4. PVD
s/p R AK popliteal to post tibial artery bypass in ___, 
percutaneous intervention ___
s/p PTSG L ___
s/p plasty & stent of R SFA, plasty of ___ ___

5. Afib/flutter on chronic anticoagulation 
6. htxn
7. hyperlipidemia
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Physical Exam:
VS: 99.4    HR: 63     BP: 108/63   RR: 18    Spo2: 100% RA
Gen: no acute distress
Neck: supple, no carotid bruits
Heent: no scleral icterus
Lungs: clear
heart: Irregular regular rhythm
Abd: soft, nontender, nondistended
Extrem:

    Fem    DP   ___   Graft  
Rt  palp   dopl        dopl
Lt  palp               dopl

 
Pertinent Results:
___ 06:05AM BLOOD 

WBC-6.3 RBC-3.47* Hgb-9.5* Hct-28.8* MCV-83 MCH-27.4 MCHC-33.0 
RDW-16.2* Plt ___

___ 06:05AM BLOOD 

Plt ___

___ 06:05AM BLOOD 

Glucose-91 UreaN-73* Creat-1.9* Na-137 K-4.5 Cl-102 HCO3-27 
AnGap-13

___ 06:05AM BLOOD 

Calcium-9.0 Phos-4.7* Mg-2.3

___ 3:47 pm SWAB      DORSE RT FOOT GRAFT. 

GRAM STAIN (Final ___: 

NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
SMEAR REVIEWED; RESULTS CONFIRMED. 

WOUND CULTURE (Final ___: 

ENTEROBACTER CLOACAE.    HEAVY GROWTH. 

PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH. 

SENSITIVITIES: MIC expressed in MCG/ML
                 
                             ENTEROBACTER CLOACAE
                             |          PSEUDOMONAS AERUGINOSA
                             |          |   
AMIKACIN--------------    16 S
CEFEPIME--------------     4 S        4 S
CEFTAZIDIME-----------     4 S        4 S
CEFTRIAXONE-----------    32 I
CIPROFLOXACIN---------<=0.25 S        1 S
GENTAMICIN------------     8 I        2 S
MEROPENEM-------------<=0.25 S        1 S
PIPERACILLIN----------    64 I        8 S
PIPERACILLIN/TAZO-----                8 S
TOBRAMYCIN------------  =>16 R      <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

XRAY:

HISTORY: Recent trauma with new ulcerations. 
  
FINDINGS: In comparison with the study of ___, there is 
little change.  Prior resection of most of the phalanges of the 
great toe are again seen and there is again some offset about 
the distal interphalangeal joint of the second digit. 
Moderate-to-large inferior calcaneal spur is again seen and 
there is vascular calcification consistent with underlying 
diabetes. 
  
No convincing evidence of gas and soft tissues or acute erosive 
changes. 

XRAY:

A portable upright AP chest compared to ___. Moderate 
cardiomegaly is 
unchanged. There is increasing fullness of the central pulmonary 
vasculature and mild interstitial prominence consistent with 
mild pulmonary edema. No focal areas of consolidation and no 
appreciable pleural effusion. Median sternotomy wires are 
intact. 
  
IMPRESSION: Slight increase in pulmonary edema compared to 
___. 

 
Brief Hospital Course:
Pt admitted from office with new foolt ulcers s/p trauma to 
foot.

Wound cultered, Broad spectrum Antibiotics IV throught PICC 
line. 

CXR confirms PICC placement

Podiatry consult obtained

Foot films. Pain Management. Wet to dry dressing changes.

FINDINGS: In comparison with the study of ___, there is 
little change.  
Prior resection of most of the phalanges of the great toe are 
again seen and 
there is again some offset about the distal interphalangeal 
joint of the 
second digit. Moderate-to-large inferior calcaneal spur is again 
seen and 
there is vascular calcification consistent with underlying 
diabetes. 
  
No convincing evidence of gas and soft tissues or acute erosive 
changes.

Pt had a trigger for Low HR, rigors, with decrese in 02 sats. 
Resolved spontaneously in about 30 minutes. Pt pan cx'd. All 
negative to date. EKG no change. R/O for MI. Pt put on 
telemetry.

ID was consulted. Blood cx's, urine, urine cx negative. Findings 
below.

___ 3:47 pm SWAB      DORSE RT FOOT GRAFT. 

GRAM STAIN (Final ___: 

NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
SMEAR REVIEWED; RESULTS CONFIRMED. 

WOUND CULTURE (Final ___: 
ENTEROBACTER CLOACAE.    HEAVY GROWTH. 
 
PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH. 

                             ENTEROBACTER CLOACAE
                             |          PSEUDOMONAS AERUGINOSA
                             |          |   
AMIKACIN--------------    16 S
CEFEPIME--------------     4 S        4 S
CEFTAZIDIME-----------     4 S        4 S
CEFTRIAXONE-----------    32 I
CIPROFLOXACIN---------<=0.25 S        1 S
GENTAMICIN------------     8 I        2 S
MEROPENEM-------------<=0.25 S        1 S
PIPERACILLIN----------    64 I        8 S
PIPERACILLIN/TAZO-----                8 S
TOBRAMYCIN------------  =>16 R      <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

A portable upright AP chest compared to ___. Moderate 
cardiomegaly is 
unchanged. There is increasing fullness of the central pulmonary 
vasculature 
and mild interstitial prominence consistent with mild pulmonary 
edema. No 
focal areas of consolidation and no appreciable pleural 
effusion. Median 
sternotomy wires are intact. 
  
IMPRESSION: Slight increase in pulmonary edema compared to 
___. 

Pt with chronic systoloc CHF, Extra dose of lasix was given. Pt 
responded appropriatly.

Vancomycin levels and creatinine levels followed. Stable

___ consult obtained. Pt stable fot DC home with ___. Pt to go 
out on Ciprofloxacin for to cove above bacteria.

 
Medications on Admission:
Brimonidine/Alphagan P to RT eye Q8hours, Citalopram 20', 
Simvastatin 20', ASA 81', Docusate Sodium 100'', Nitro 0.3 prn, 
Furosemide 40', Oxycodone-Acetaminophen ___ prn, 
cyanocobalamin 100', coumadin 5, brimonidine 0.15% 1 gtt OD q8h 
 
Discharge Medications:
1. Warfarin 3 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
Have your INR followed in the usual manner.  
2. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q24H (every 24 
hours).  
4. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. Furosemide 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Cyanocobalamin 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain for 10 days.
Disp:*40 Tablet(s)* Refills:*0*
9. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
10. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic Q8H 
(every 8 hours).  
11. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

12. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) for 10 days.
Disp:*30 Tablet(s)* Refills:*0*
13. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 10 days.
Disp:*10 Tablet(s)* Refills:*0*
14. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
15. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
arterial ulcer

CAD, CHF, DM, PVD, Afib/flutter on chronic anticoagulation, HTN, 
hyperlipidemia  

 
Discharge Condition:
Stable

 
Discharge Instructions:
WOUND CARE:

PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS: 

Redness in or drainage from your wound(s).

New pain, numbness or discoloration of your lower or upper 
extremities (notably on the side of the incision).

Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.
 
Followup Instructions:
___